* C:\Users\lucasp\Projects\CMOS-project\my_sawtooth_gen.asc
* Generated by LTspice 26.0.1 for Windows.
M1 VDD V_BIAS OUT VDD PMOS_SME l=0.35u w=0.4u
C1 OUT 0 500f
VTEST IN 0 PULSE(0 3.3 0.4n 0.2n 0.6n 1.4n 5u 4)
M2 OUT IN 0 0 NMOS_SME l=0.35u w=1.8u
M3 VDD V_BIAS V_BIAS VDD PMOS_SME l=0.35u w=4u
I1 V_BIAS 0 5µ
R1 V_BIAS 0 10G
V1 VDD 0 3.3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
* Sawtooth generator
* Input is a pulse, and Iref
* PMOS current mirror
* Timing capacitor
* NMOS discharge switch
* PMOS diode-connected
.tran 0 20u 0 20n
.include library.mod
* NMOS: larger width for faster discharge (lower ON-resistance),\nsince we have a very short pulse
* PMOS: 10x larger width to get 0.1xIref\n(to then make the salve PMOS charge the cap slower)
.backanno
.end
